US04794109
1ae) 5-(tetrazol-1-yl)-valeric acid chloride
1 g of 5-(tetrazol-1-yl)-valeric acid in 12 ml of absolute benzene is heated at reflux temperature for 20 minutes with 0.6 ml of thionyl chloride and 2 drops of DMF. After concentration by evaporation under reduced pressure, the title compound is obtained.

reactant | 5-(tetrazol-1-yl)-valeric acid | 1 g | N1(N=NN=C1)CCCCC(=O)O | C6H10N4O2
reactant | thionyl chloride | 0.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 5-(tetrazol-1-yl)-valeric acid chloride | N1(N=NN=C1)CCCCC(=O)Cl | C6H9ClN4O
